US04673746
To a mixture of 46 g of 4-chloro-2-fluorobenzoyl chloride and 38.9 g of 2,3-dichloroanisole in 150 ml of 1,2-dichloroethane, 32 g of AlCl3 is added gradually. The mixture is warmed to 40° C. with a vigorous evolution of gas. The mixture is poured into concentrated HCl and ice. The organic layer is separated and the aqueous layer is extracted with additional organic solvent. The combined organic extracts are washed with water, dried over Na2SO4 and evaporated. The crude product is triturated with hexane to give 2,3-dichloro-4-methoxy-4'-chloro-2'-fluorobenzophenone. An analytical sample is recrystallized from EtOH, mp 115°-116° C.

reactant | 4-chloro-2-fluorobenzoyl chloride | 46 g | ClC1=CC(=C(C(=O)Cl)C=C1)F | C7H3Cl2FO
reactant | 2,3-dichloroanisole | 38.9 g | ClC1=C(C=CC=C1Cl)OC | C7H6Cl2O
reactant | AlCl3 | 32 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | 2,3-dichloro-4-methoxy-4'-chloro-2'-fluorobenzophenone | ClC1=C(C(=O)C2=C(C=C(C=C2)Cl)F)C=CC(=C1Cl)OC | C14H8Cl3FO2
